US06562989B2
2-methoxy-2′-methyl-1,1′-biphenyl (Table 12, Entry 1)
2-Bromoanisole (187 mg, 1.00 mmol) reacted with 2-methylphenylboronic acid (150 mg, 1.10 mmol) using 1 mol % of Pd(dba)2/Ph5FcP(t-Bu)2 and KF (116 mg, 2.0 mmol) in toluene at 100° C. to give the title compound (193 mg, 98%) as a colorless oil: 1H-NMR (400 MHz, CDCl3): δ 7.43 (t, 1H, J=8.2 Hz, aryl coupling J=1.75 Hz), 7.36-7.24 (m 5H), 7.10 (t, 1H, J=7.4 Hz, aryl coupling 0.91 Hz), 7.05 (d, 1H, J=8.2 Hz), 3.84 (s, 3H), 2.24 (s, 3H). 13C{1H}-NMR (100 MHz, CDCl3): δ 156.53, 138.58, 136.77, 130.95, 130.77, 129.95, 129.52, 128.51, 127.25, 125.40, 120.38, 110.56, 55.31, 19.89. GC/MS(EI): m/z 198 (M+). Anal. Calcd for C14H14O: C, 84.81; H, 7.12. Found: C, 84.97; H, 7.11.

reactant | 2-Bromoanisole | 1.00 mmol, 187 mg | BrC1=C(C=CC=C1)OC | C7H7BrO
reactant | 2-methylphenylboronic acid | 1.10 mmol, 150 mg | CC1=C(C=CC=C1)B(O)O | C7H9BO2
reactant | KF | 2.0 mmol, 116 mg | [F-].[K+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-methoxy-2′-methyl-1,1′-biphenyl | 193 mg, 98% | COC1=C(C=CC=C1)C1=C(C=CC=C1)C | C14H14O
